US06350749B1
To a solution of 5-(2-chlorophenyl)cyclohexane-1,3-dione (1.0 g), propionic acid (0.60 g) and dimethylaminopyridine (0.82 g) in dimethylformamide (30 ml) was added dicyclohexylcarbodiimide (1.2 g), and the mixture was stirred at room temperature for 13 hours. Under reduced pressure, the solvent was evaporated, and to the residue was ethyl acetate. The mixture was washed with 1N hydrochloric acid and water, and to the mixture was added 1N sodium hydroxide solution. The aqueous layer was washed with diethylether, neutralized with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure, and the residue was recrystallized from diisopropylether and hexane to give colorless crystals of 5-(2-chlorophenyl)-2-propionylcyclohexane-1,3-dione (0.67 g).

reactant | 5-(2-chlorophenyl)cyclohexane-1,3-dione | 1.0 g | ClC1=C(C=CC=C1)C1CC(CC(C1)=O)=O | C12H11ClO2
reactant | propionic acid | 0.60 g | C(CC)(=O)O | C3H6O2
reactant | dimethylaminopyridine | 0.82 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | dicyclohexylcarbodiimide | 1.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 5-(2-chlorophenyl)-2-propionylcyclohexane-1,3-dione | 0.67 g | ClC1=C(C=CC=C1)C1CC(C(C(C1)=O)C(CC)=O)=O | C15H15ClO3
